US04631119
2-Methoxy-3'-nitrobiphenyl (9.00 g, 3.9 mmol) was heated at reflux with HOAc (50 mL) and 48% HBr (50 mL) for 8 h. The solution was then concentrated in vacuo, poured into ice-cold H2O (300 mL) and extracted with CH2Cl2. The organic layer was dried, evaporated and recrystallized (50% aq MeOH) to afford 2-hydroxy-3'-nitrobiphenyl as yellow needles; 6.12 g (73%); mp 99.5°-100° C.

reactant | 2-Methoxy-3'-nitrobiphenyl | 3.9 mmol, 9.00 g | COC1=C(C=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C13H11NO3
reactant | HBr | 50 mL | Br | BrH
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
product | 2-hydroxy-3'-nitrobiphenyl | OC1=C(C=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C12H9NO3
